US07671063B2
A mixture of 2-dimethylamino-6-nitro-benzenesulfonamide (753 mg, 3.07 mmol), Pd (10%) on charcoal (100 mg) and methanol (25 ml) is hydrogenated at 25° C. for 2 h. Pd is removed by filtration, the solvent evaporated and the residue crystallized from TBME/cyclohexane to give 2-amino-6-dimethylamino-benzenesulfonamide as a colorless solid.

reactant | 2-dimethylamino-6-nitro-benzenesulfonamide | 3.07 mmol, 753 mg | CN(C1=C(C(=CC=C1)[N+](=O)[O-])S(=O)(=O)N)C | C8H11N3O4S
catalyst | Pd | [Pd] | Pd
solvent | methanol | 25 ml | CO | CH4O
product | 2-amino-6-dimethylamino-benzenesulfonamide | NC1=C(C(=CC=C1)N(C)C)S(=O)(=O)N | C8H13N3O2S
